US06906203B1
2-Amino-3-cyano-4-(3,4,5-trimethoxyphenyl)-4H-quino[5,6-b]pyran
The title compound was prepared from 3,4,5-trimethoxybenzylidenemalononitrile (244 mg, 1 mmol) and 5-hydroxyquinoline by a procedure similar to that described for Example 145. 1H NMR (CDCl3): 8.96 (m, 1H), 8.52 (d, J=8.7, 1H), 7.82 (d, J=9.0, 1H), 7.52 (m, 1H), 7.33 (d, J=8.7, 1H), 6.43 (s, 2H), 4.83 (m, 3H), 3.83 (s, 3H), 3.80 (s, 3H).

reactant | 3,4,5-trimethoxybenzylidenemalononitrile | 1 mmol, 244 mg | COC=1C=C(C=C(C#N)C#N)C=C(C1OC)OC | C13H12N2O3
reactant | 5-hydroxyquinoline | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
product | 2-Amino-3-cyano-4-(3,4,5-trimethoxyphenyl)-4H-quino[5,6-b]pyran | NC1=C(C(C2=C(O1)C=1C=CC=NC1C=C2)C2=CC(=C(C(=C2)OC)OC)OC)C#N | C22H19N3O4
